US07893257B2
1-Cyclopropylpiperazine
A carousel tube was charged with sulfuric acid mono-[2-(2-sulfooxy-ethylamino)-ethyl]ester (1 g) and D2O (3 mL). To the resulting stirred solution was added then added cyclopropylamin (0.7 mL). The resulting mixture was observed to form a stirrable thick slurry, which was heated at 50° C. overnight. Comparison of the 1H NMR of the title compound with the 1H NMR of the di-hydrochloride salt of the title compound confirmed that the title compound was prepared and present in the resulting solution.

reactant | sulfuric acid mono-[2-(2-sulfooxy-ethylamino)-ethyl]ester | 1 g | S(=O)(=O)(O)OCCNCCOS(O)(=O)=O | C4H11NO8S2
reactant | cyclopropylamin | 0.7 mL | C1(CC1)N | C3H7N
product | 1-Cyclopropylpiperazine | C1(CC1)N1CCNCC1 | C7H14N2
